US08420290B2
By following the same procedures as in Examples 1-1-1 to 1-1-3 aside from using 1-adamantanemethanol instead of 2-adamantanol and acrylic acid instead of methacrylic acid, 1-[(1-adamantyl)methoxy]-2-methylpropyl acrylate was produced (four step yield 78%).

reactant | 1-adamantanemethanol | C12(CC3CC(CC(C1)C3)C2)CO | C11H18O
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
product | 1-[(1-adamantyl)methoxy]-2-methylpropyl acrylate | yield 78% | C(C=C)(=O)OC(C(C)C)OCC12CC3CC(CC(C1)C3)C2 | C18H28O3
